* Z:\mnt\design.r\spice\examples\1771.asc
XU1 N005 N003 N006 0 N004 IN N001 IN LTC1771
M§Q1 N007 N004 N001 N001 FDC638P
R1 IN N001 50m
D1 0 N007 1N5817
C1 N005 0 .001µ
C2 N002 0 220p
R2 N003 N002 10K
V1 IN 0 5
L1 N007 OUT 15µ Rpar=5K
C3 OUT 0 150µ Rser=50m
R3 OUT N006 1.64Meg
R4 N006 0 1Meg
C4 OUT N006 5p
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
.lib LTC1771.sub
.backanno
.end
